US05770615
3. 1-[4-Phenylmethoxy-3-aminophenyl]ethanone
A mechanically stirred MeOH (3.8 L) suspension containing 1-[4-phenylmethoxy-3-nitrophenyl]ethanone (76.5 g, 282 mmol) was degassed with argon for 40 minutes at ~10° C. prior to addition of PtO2 (2.34 g, 10 mmol). Hydrogen was sparged into the reaction mixture at 8° C. to 10° C. via a subsurface gas inlet. After 8 hours, the completed reaction was degassed with Ar while being warmed to ~15° C., diluted with CHCl3 (250 mL) and filtered. The filtrate was stripped to give 70 g crude product which, after trituration for ten minutes with i-PrOH (450 mL) at 60° C., yielded 57.4 (84%) of the title compound.

reactant | MeOH | 3.8 L | CO | CH4O
reactant | 1-[4-phenylmethoxy-3-nitrophenyl]ethanone | 282 mmol, 76.5 g | C1(=CC=CC=C1)COC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C15H13NO4
catalyst | PtO2 | 10 mmol, 2.34 g | O=[Pt]=O
solvent | i-PrOH | 450 mL | CC(C)O | C3H8O
product | 1-[4-Phenylmethoxy-3-aminophenyl]ethanone | C1(=CC=CC=C1)COC1=C(C=C(C=C1)C(C)=O)N | C15H15NO2
